US07022725B2
A mixture of diethyl 4-aminobenzylphosphonate (72.9 mg), 3-[5-(4-trifluoromethylphenyl)-4-isoxazolyl]propionic acid (57 mg), 1-hydroxy-7-aza-1H-1,2,3-benzotriazole (40 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (45 mg) and N,N-dimethylformamide (0.3 ml) was stirred at room temperature overnight. The reaction mixture was directly introduced into preparative HPLC and purified to give N-[4-(diethylphosphonomethyl)phenyl]-3-[5-(4-trifluoromethylphenyl)-4-isoxazolyl]propionamide.

reactant | diethyl 4-aminobenzylphosphonate | 72.9 mg | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
reactant | 3-[5-(4-trifluoromethylphenyl)-4-isoxazolyl]propionic acid | 57 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)CCC(=O)O)(F)F | C13H10F3NO3
reactant | 1-hydroxy-7-aza-1H-1,2,3-benzotriazole | 40 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 45 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | N-[4-(diethylphosphonomethyl)phenyl]-3-[5-(4-trifluoromethylphenyl)-4-isoxazolyl]propionamide | yield 71% | C(C)OP(=O)(OCC)CC1=CC=C(C=C1)NC(CCC=1C=NOC1C1=CC=C(C=C1)C(F)(F)F)=O | C24H26F3N2O5P
